US04866075
N-[1-(2-[indol-3-yl]ethyl)piperid-4-yl]quinoline-6-carboxamide
A solution of isobutylchloroformate (0.65g, 5.01 mmol) in dry THF (10 cm3) was added dropwise to a suspension of quinoline-6-carboxylic acid (0.87g, 5.03 mmol) and triethylamine (0.6g, 5.94 mmol) in dry THF (10 cm3) with stirring and cooling at -20° C. Stirring was continued while the temperature rose to ambient over 2 hours, then the mixture was cooled to -20° C. again and a solution of 3-[2-(4-amino-1-piperidyl)ethyl]indole (1.20 g, 4.94 mmol) in dry THF (20 cm3) was added dropwise. The mixture was stirred at room temperature overnight then evaporated to dryness and the residue triturated with water, aqueous potassium carbonate and water to give 1.4 g. of the title compound.

reactant | isobutylchloroformate | 5.01 mmol, 0.65g | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | quinoline-6-carboxylic acid | 5.03 mmol, 0.87g | N1=CC=CC2=CC(=CC=C12)C(=O)O | C10H7NO2
reactant | triethylamine | 5.94 mmol, 0.6g | C(C)N(CC)CC | C6H15N
reactant | 3-[2-(4-amino-1-piperidyl)ethyl]indole | 4.94 mmol, 1.20 g | NC1CCN(CC1)CCC1=CNC2=CC=CC=C12 | C15H21N3
solvent | THF | 10 cm3 | C1CCOC1 | C4H8O
solvent | THF | 10 cm3 | C1CCOC1 | C4H8O
solvent | THF | 20 cm3 | C1CCOC1 | C4H8O
product | N-[1-(2-[indol-3-yl]ethyl)piperid-4-yl]quinoline-6-carboxamide | N1C=C(C2=CC=CC=C12)CCN1CCC(CC1)NC(=O)C=1C=C2C=CC=NC2=CC1 | C25H26N4O
